US04514395
Production of 2-trifluoromethyl-10-[3-(3-undecanoyloxypyrrolidino)-propyl]-phenothiazine
According to the procedure of Example 5, 10.8 g of 2-trifluoromethyl-10-[3-(3-hydroxypyrrolidino)-propyl]-phenothiazine.hydrochloride and 6.2 g of undecanoylchloride were subjected to the reaction, to object the object as the free base. (Yield: 11.2 g)

reactant | 2-trifluoromethyl-10-[3-(3-hydroxypyrrolidino)-propyl]-phenothiazine.hydrochloride | 10.8 g | Cl.FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CC(CC1)O)(F)F
reactant | undecanoylchloride | 6.2 g | C(CCCCCCCCCC)(=O)Cl | C11H21ClO
product | 2-trifluoromethyl-10-[3-(3-undecanoyloxypyrrolidino)-propyl]-phenothiazine | FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CC(CC1)OC(CCCCCCCCCC)=O)(F)F | C31H41F3N2O2S
